US07947686B2
Step 4. Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide [(XIV), Ra=Rb=H, R=3,5-difluorophenyl]
To a suspension of 5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-ylamine (34.68 g, 110.44 mmol) in anhydrous dichloromethane (1 L), at 0°-5° C., trifluoroacetic anhydride (46.80 mL, 331.32 mmol) was added dropwise. The mixture was stirred at 0°-5° C. for 2 hours and then evaporated to dryness. The crude residue was treated with methanol (200 mL) and then evaporated to dryness. A mixture of methanol (130 mL) and water (300 mL) was added to the solid and the suspension stirred at room temperature for 30 min. The white solid was then filtered and washed with water. After drying in vacuo at 50° C. the title compound was obtained as white solid (43.76 g, 96%).

reactant | 5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-ylamine | 110.44 mmol, 34.68 g | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC=2C(CC1)=NNC2N | C12H12F2N4O2S
reactant | trifluoroacetic anhydride | 331.32 mmol, 46.80 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide | 43.76 g, 96% | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC=2C(CC1)=NNC2NC(C(F)(F)F)=O | C14H11F5N4O3S
